US05583221
A solution of 1-azabicyclo[3.2.2]nonan-4-one (1.39 g, 10 mmol) in anhydrous tetrahydrofuran (20 mL) under nitrogen was cooled (-65° C.), and treated with n-butyl nitrite (1.30 mL, 11 mmol). 1.0N Lithium bis(trimethylsilyl)amide/THF (16 mL, 16 mmol) was added dropwise so as to keep the pot temperature below -58° C. After the addition was complete the mixture was warmed to room temperature over one h, stirred for 30 min, cooled on an ice bath, and treated with saturated ammonium chloride (6 mL). The solution was concentrated in vacuo, diluted with toluene, and reconcentrated to remove most of the water. The residue was chromatographed on silica gel (eluted with 5% methanol/methylene chloride, then with 10% methanol/methylene chloride), then triturated from ether to afford 1-azabicyclo[3.2.2]nonan-3,4-dione-3-oxime (0.92 g, 55%) as a white solid.

reactant | 1-azabicyclo[3.2.2]nonan-4-one | 10 mmol, 1.39 g | N12CCC(C(CC1)CC2)=O | C8H13NO
reactant | n-butyl nitrite | 11 mmol, 1.30 mL | N(=O)OCCCC | C4H9NO2
reactant | Lithium bis(trimethylsilyl)amide THF | 16 mmol, 1.0N, 16 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | ammonium chloride | 6 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-azabicyclo[3.2.2]nonan-3,4-dione-3-oxime | 0.92 g, 55% | N12CC(C(C(CC1)CC2)=O)=NO | C8H12N2O2
